US06528677B1
0.6 g of this dibromide were dissolved in 10 ml of THF, cooled to −78° C. and treated dropwise with 1.8 ml of a 1.6 molar solution of butyl lithium in hexane. After stirring at −78° C. for 1 hour and at room temperature for 1 hour, the reaction mixture was poured on ice/saturated aqueous ammonium chloride solution and extracted with hexane. The organic phase was dried (Na2SO4) and the solvent evaporated to yield 0.4 g of 2-ethynyl-4,4,7,7-tetramethyl-2-pentyl-2,3,4,5,6,7-hexahydro-1H-indene as yellowish oil.

reactant | butyl lithium | C(CCC)[Li]
reactant | hexane | CCCCCC | C6H14
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-ethynyl-4,4,7,7-tetramethyl-2-pentyl-2,3,4,5,6,7-hexahydro-1H-indene | 0.4 g | C(#C)C1(CC=2C(CCC(C2C1)(C)C)(C)C)CCCCC | C20H32
